US08013163B2
2,6-Dichlorobenzoyl chloride (8.2 g; 39.05 mmol) was added cautiously to a solution of 4-amino-1H-pyrazole-3-carboxylic acid methyl ester (5 g; 35.5 mmol) and triethylamine (5.95 ml; 42.6 mmol) in dioxan (50 ml) then stirred at room temperature for 5 hours. The reaction mixture was filtered and the filtrate treated with methanol (50 ml) and 2M sodium hydroxide solution (100 ml), heated at 50° C. for 4 hours, and then evaporated. 100 ml of water was added to the residue then acidified with concentrated hydrochloric acid. The solid was collected by filtration, washed with water (100 ml) and sucked dry to give 10.05 g of 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid as a pale violet solid.

reactant | 2,6-Dichlorobenzoyl chloride | 39.05 mmol, 8.2 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | 4-amino-1H-pyrazole-3-carboxylic acid methyl ester | 35.5 mmol, 5 g | COC(=O)C1=NNC=C1N | C5H7N3O2
reactant | triethylamine | 42.6 mmol, 5.95 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 10.05 g | ClC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)Cl | C11H7Cl2N3O3
